US06107329
{2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionylamino}-acetic acid methyl ester
To 5.0 mmol of 5-chloro-1H-indole-2-carboxylic acid (50 mL of a 0.1 M solution in acetonitrile) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (50 mL of a 0.10 M solution in acetonitrile, 5.0 mmol), 1-hydroxybenzotriazole (50 mL of a 0.10 M solution in acetonitrile, 5.0 mmol), followed by (2-amino-3-phenyl-propionylamino)-acetic acid methyl ester (50 mL of a 0.10 M solution in acetonitrile, 5.0 mmol). The reaction was agitated overnight at 80° C. and then concentated to dryness to give the title compound. HPLC RT 8.15 (65%).

reactant | 5-chloro-1H-indole-2-carboxylic acid | 5.0 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (2-amino-3-phenyl-propionylamino)-acetic acid methyl ester | COC(CNC(C(CC1=CC=CC=C1)N)=O)=O | C12H16N2O3
solvent | acetonitrile | C(C)#N | C2H3N
product | {2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionylamino}-acetic acid methyl ester | COC(CNC(C(CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O)=O | C21H20ClN3O4
